US05864039
4-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine (1.00 g) as starting compound was reacted and treated in the same manner as in Example 1 using phenylacetyl chloride (0.50 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.54 g) to give 4-amino-5-chloro-2-methoxy-N-((3R)-1-(4-phenylacetylaminobutyl)pyrrolidin-3-ylmethyl)benzamide.

reactant | 4-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine | 1.00 g | C(C)(C)(C)OC(=O)NC[C@@H]1CN(CC1)CCCCN | C14H29N3O2
reactant | phenylacetyl chloride | 0.50 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.54 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-((3R)-1-(4-phenylacetylaminobutyl)pyrrolidin-3-ylmethyl)benzamide | NC1=CC(=C(C(=O)NC[C@@H]2CN(CC2)CCCCNC(CC2=CC=CC=C2)=O)C=C1Cl)OC | C25H33ClN4O3
